US06136831
To a suspension of sodium methoxide (0.581 mg, 1.08 mmol) in THF (15 ml) was added a solution of ethyl trifluoroacetate (1.456 g, 10.2 mmol) in THF (7 ml) under nitrogen atmosphere. To the resulting mixture was added a solution of 2-acetyl-6-fluorobenzothiazole (2.00 g, 10.2 mmol) in THF (25 ml) dropwise along with ice cooling. The mixture was stirred at room temperature for 1.5 hours, and then concentrated. The resultant residue was subjected to purification using column chromatography on silica gel to afford 1-(6-fluorobenzothiazol-2-yl)-4,4,4-trifluorobutane-1,3-dione (1.26 g, 42%). NMR(CDCl3 -DMSO-d6) δ: 6.85 (1H, s), 7.23 (1H, app dt, J=2.6 Hz, 8.9 Hz), 7.59 (1H, dd, J=2.6 Hz, 8.2 Hz), 8.05 (1H, dd, J=4.6 Hz, 8.9 Hz); mp 175-178° C.

reactant | sodium methoxide | 1.08 mmol, 0.581 mg | C[O-].[Na+]
reactant | ethyl trifluoroacetate | 10.2 mmol, 1.456 g | FC(C(=O)OCC)(F)F | C4H5F3O2
reactant | 2-acetyl-6-fluorobenzothiazole | 10.2 mmol, 2.00 g | C(C)(=O)C=1SC2=C(N1)C=CC(=C2)F | C9H6FNOS
solvent | THF | 15 ml | C1CCOC1 | C4H8O
solvent | THF | 7 ml | C1CCOC1 | C4H8O
solvent | THF | 25 ml | C1CCOC1 | C4H8O
product | 1-(6-fluorobenzothiazol-2-yl)-4,4,4-trifluorobutane-1,3-dione | 1.26 g, 42% | FC1=CC2=C(N=C(S2)C(CC(C(F)(F)F)=O)=O)C=C1 | C11H5F4NO2S
